Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C:4](=[O:5])[H:6].[O:1]>>[O:1][C:2]#[C:3][C:4](=[O:5])[H:6],-7.2630017326
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]1[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],0.91736919102
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.9809224482
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9]>>[C:3]([H:4])#[C:5][O:8][H:9].[H:1][C:2]#[C:6][H:7],-0.71410679723
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-4.907851280859999
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.26143549198
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])[H:10].[H:11],4.46124516009
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1=[C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[O:7])[C:8]=[C:9]([H:10])[H:11],0.0644438273484
[H:1].[O:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.82533920147
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7].[H:8],1.96143101914
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17],1.88708558515
[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-6.30990522024
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.97035664083
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][H:4],5.727085118330001
[H:1][O:2][C:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4](=[C:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],5.35748124983
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.97426146336
[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.01860324542
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.09459391
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.44259372575
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9],0.7395090344490001
[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.86339745559
[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])=[C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],0.85944228061
[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.4235089860400003
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[C:4]([H:5])[O:6][C:7]#[C:8][H:9].[O:1]=[C:2][H:3],4.1165893460900005
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.9332016762
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[H:7]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[H:7],-1.89025649644
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4],4.60297481715
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]=[C:5]([H:4])[H:10].[O:6]([H:7])[C:8][H:9],3.61944807742
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[O:4])[C:8]([H:9])[H:10],3.55376409411
